US05216105
To a suspension of 9.7 g (0.10 mole) of maleimide and 11.2 g (0.10 mole) of potassium t-butoxide in 200 ml of tetrahydrofuran (THF), there was dropwise added, at 0° C., 21.8 g (0.10 mole) of di-t-butyldicarbonate over 30 minutes with stirring. Thereafter, the stirring was continued for additional one hour. The reaction mixture was poured into 500 ml of cold water and extracted with ethyl acetate. The crude product obtained by drying and concentrating the resulting ethyl acetate solution was purified by column chromatography (packed material: silica gel; eluent: hexane/ethyl acetate) to give 15.8 g of N-t-butoxycarbonylmaleimide.

reactant | maleimide | 0.10 mole, 9.7 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | potassium t-butoxide | 0.10 mole, 11.2 g | CC(C)([O-])C.[K+]
reactant | di-t-butyldicarbonate | 0.10 mole, 21.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 500 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | N-t-butoxycarbonylmaleimide | 15.8 g | C(C)(C)(C)OC(=O)N1C(C=CC1=O)=O | C9H11NO4
